US07888364B2
Procedure H was performed to couple 3-(chlorosulfonyl)benzoic acid with sec-butyl amine to produce 3-(sec-butylsulfamoyl)benzoic acid which was purified by reverse phase HPLC.

reactant | 3-(chlorosulfonyl)benzoic acid | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | sec-butyl amine | C(C)(CC)N | C4H11N
product | 3-(sec-butylsulfamoyl)benzoic acid | C(C)(CC)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C11H15NO4S
